US04945021
First, 24 g of 3,6-dimethylpyridazine and 67 g of o-nitrobenzaldehyde were dissolved in 600 ml of propionic anhydride, then heated under reflux so as to obtain 33 g of 3,6-di(o-nitrostyryl)pyridazine.

reactant | 3,6-dimethylpyridazine | 24 g | CC=1N=NC(=CC1)C | C6H8N2
reactant | o-nitrobenzaldehyde | 67 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
solvent | propionic anhydride | 600 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 3,6-di(o-nitrostyryl)pyridazine | 33 g | [N+](=O)([O-])C1=C(C=CC=2N=NC(=CC2)C=CC2=C(C=CC=C2)[N+](=O)[O-])C=CC=C1 | C20H14N4O4
